US06969713B2
i) 2-Chloro-N-(2-chlorophenyl)acetamide
2-Chloroaniline (5 g) was dissolved in dichloromethane (100 ml) and chloroacetyl chloride (3.11 ml) and N,N-diisopropylethylamine (13.65 ml) were added at 0° C. under a nitrogen atmosphere. The mixture was stirred for 1 hour at 0° C. and 12 hours at room temperature, then quenched with water. The product was extracted with dichloromethane. The organic layer was washed with water, brine, dried (MgSO4) and concentrated under reduced pressure to leave the subtitle product as a beige solid. Yield 7.5 g. This was used in the next step without further purification.

reactant | 2-Chloroaniline | 5 g | ClC1=C(N)C=CC=C1 | C6H6ClN
reactant | chloroacetyl chloride | 3.11 ml | ClCC(=O)Cl | C2H2Cl2O
reactant | N,N-diisopropylethylamine | 13.65 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 2-Chloro-N-(2-chlorophenyl)acetamide | ClCC(=O)NC1=C(C=CC=C1)Cl | C8H7Cl2NO
